US04076825
(5) Preparation of [5-[(2-methylpropyl)sulfinyl]-1H-benzimidazol-2-yl]carbamic acid, methyl ester
To 3.09 g (14.5 mMol) of 4-(2-methylpropyl)sulfinyl-1,2-diaminobenzene in 35 ml methanol and 0.84 ml acetic acid is added 3.11 g (16 mMol) 1,3-bis(methoxycarbonyl)-S-methyl isothiourea, prepared as described in Example 1A(5), and the resulting solution heated to reflux for 3 hours. The solvent is removed in vacuo, the solid digested with water and filtered and washed with ether. The resulting orange solid is recrystallized from 35 ml ethanol to yield 3.0 g of the title compound, m.p. 198°-201°, yield, 70%.

reactant | 4-(2-methylpropyl)sulfinyl-1,2-diaminobenzene | 14.5 mMol, 3.09 g | CC(CS(=O)C1=CC(=C(C=C1)N)N)C | C10H16N2OS
reactant | 1,3-bis(methoxycarbonyl)-S-methyl isothiourea | 16 mMol, 3.11 g | COC(=O)NC(SC)=NC(=O)OC | C6H10N2O4S
solvent | methanol | 35 ml | CO | CH4O
solvent | acetic acid | 0.84 ml | C(C)(=O)O | C2H4O2
product | [5-[(2-methylpropyl)sulfinyl]-1H-benzimidazol-2-yl]carbamic acid, methyl ester | 3.0 g | CC(CS(=O)C1=CC2=C(NC(=N2)NC(OC)=O)C=C1)C | C13H17N3O3S
